US07691860B2
Preparation of 2-(trans-4-methylsulfonylaminocyclohexyl)-5-phenylbenzimidazole
To a solution in a solvent mixture of THF (4.0 mL) and water (1.0 mL) of 2-(trans-4-azidocyclohexyl)-5-phenylbenzimidazole (73.1 mg) as prepared by reacting trans-4-azidocyclohexanecarboxylic acid with 4-phenyl-1,2-phenylenediamine under the same conditions as described in Example 1-3) was added triphenylphosphine (72.0 mg), followed by stirring at room temperature for 1 hr. A portion of the reaction solution was admixed with methanesulfonyl chloride and triethylamine, followed by stirring at the same temperature for 1 hr., and the resultant reaction solution was admixed with conc. aqueous ammonia, followed by concentration under reduced pressure. The residue was separated and purified on a collective thin-layer chromatograph (chloroform:methanol=15:1) to give the title compound.

reactant | 2-(trans-4-azidocyclohexyl)-5-phenylbenzimidazole | 73.1 mg | N(=[N+]=[N-])[C@@H]1CC[C@H](CC1)C=1NC2=C(N1)C=CC(=C2)C2=CC=CC=C2 | C19H19N5
reactant | trans-4-azidocyclohexanecarboxylic acid | N(=[N+]=[N-])[C@@H]1CC[C@H](CC1)C(=O)O | C7H11N3O2
reactant | 4-phenyl-1,2-phenylenediamine | C1(=CC=CC=C1)C1=CC(=C(C=C1)N)N | C12H12N2
reactant | triphenylphosphine | 72.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonia | N | H3N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | water | 1.0 mL | O | H2O
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | 2-(trans-4-methylsulfonylaminocyclohexyl)-5-phenylbenzimidazole | CS(=O)(=O)N[C@@H]1CC[C@H](CC1)C=1NC2=C(N1)C=CC(=C2)C2=CC=CC=C2 | C20H23N3O2S
